US06172085B2
5,5-Diphenylvaleronitrile
A solution of 4,4-diphenylbutyl methanesulfonate (7.5 g) and sodium cyanide (2.5 g) in dimethyl sulfoxide (70 mL) was stirred at 60° C. for 15 hours. After the reaction mixture was allowed to cool, it was extracted with diethyl ether. The extract was dried over MgSO4 and concentrated, whereby 5.8 g of the title compound was obtained quantitatively.

reactant | 4,4-diphenylbutyl methanesulfonate | 7.5 g | CS(=O)(=O)OCCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C17H20O3S
reactant | sodium cyanide | 2.5 g | [C-]#N.[Na+]
solvent | dimethyl sulfoxide | 70 mL | CS(=O)C | C2H6OS
product | 5,5-Diphenylvaleronitrile | 5.8 g | C1(=CC=CC=C1)C(CCCC#N)C1=CC=CC=C1 | C17H17N
